### PR TITLE
chore: adaptations for nightly-2024-06-25

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean [hunk 1]
```diff
@@ -241,7 +241,7 @@ theorem sourceAffineLocally_isLocal (h₁ : RingHom.RespectsIso @P)
       intro V hV
       rw [Scheme.preimage_basicOpen] at hV
       subst hV
-      exact U.2.ιOpens_preimage (Scheme.Γ.map f.op r.1)
+      exact U.2.ιOpens_basicOpen_preimage (Scheme.Γ.map f.op r.1)
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/Morphisms/RingHomProperties.lean:244]: This is simply correcting a merge error on `bump/v4.10.0`.
